US06462038B1
In a 200-mL r.b. flask, a solution of 3,4-dihydro-3,3-dimethylquinoxalin-2(1H)-one (1.00 g, 5.66 mmol) in dry THF was treated with NaH (0.28 g, 7.09 mmol, 1.25 equiv). The reaction mixture was stirred at room temperature for 30 minutes before iodomethane (0.39 mL, 6.24 mmol, 1.1 equiv) was added to the reaction flask. The reaction was then stirred at room temperature overnight then partitioned between EtOAc (100 mL) and H2O (20 mL). The aqueous layer was extracted with EtOAc (2×30 mL). The combined organic layers were then washed with brine (20 mL), dried (MgSO4), filtered, and concentrated to a thick oil. Purification by flash chromatography (25% EtOAc/hexane) afforded 830 mg (78%) of 3,4-dihydro-1,3,3-trimethylquinoxalin-2(1H)-one as a white solid. Data for 3,4-dihydro-1,3,3-trimethylquinoxalin-2(1H)-one: 1H NMR (400 MHz, CDCl3) δ 6.90 (m, 3H), 6.67 (d, J=7.7, 1H), 3.69 (bs, 1H), 3.36 (s, 3H), 1.37 (s, 6H).

reactant | 3,4-dihydro-3,3-dimethylquinoxalin-2(1H)-one | 5.66 mmol, 1.00 g | CC1(C(NC2=CC=CC=C2N1)=O)C | C10H12N2O
reactant | NaH | 7.09 mmol, 0.28 g, 1.25 equiv | [H-].[Na+]
reactant | iodomethane | 6.24 mmol, 0.39 mL, 1.1 equiv | IC | CH3I
solvent | THF | C1CCOC1 | C4H8O
product | 3,4-dihydro-1,3,3-trimethylquinoxalin-2(1H)-one | 830 mg, 78% | CN1C(C(NC2=CC=CC=C12)(C)C)=O | C11H14N2O
